US05506267
12-cyclohexyldodecanoic acid
CrO3 (VI) (3.204 g, 32.04 mM) was dissolved in sulfuric acid (2.76 ml), followed by stirring for a time, and then water (4.8 ml) was added to yield a solution. This solution was added drop by drop to a solution of 12-cyclohexyldodecanol (5.36 g, 20 mM) in acetone (300 ml) under ice cooling conditions, followed by stirring for 1 hour. To the mixture, iso-prapanol (about 2 ml) was added and then concentrated to dryness under reduced pressure. To the resulting residue, water (50 ml) and chloroform (50 ml) were added, followed by vigorous stirring, after which the chloroform layer was separated. The chloroform layer was dryed over anhydrous sodium sulfate, purified by silica gel colum (50 g) (methanol-chloroform (1:49)) to yield the title compound (5.3 g, yield 58.7%) as a colorless powder.

reactant | water | 4.8 ml | O | H2O
reactant | 12-cyclohexyldodecanol | 20 mM, 5.36 g | C1(CCCCC1)CCCCCCCCCCCCO | C18H36O
solvent | sulfuric acid | 2.76 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 12-cyclohexyldodecanoic acid | 5.3 g, yield 58.7% | C1(CCCCC1)CCCCCCCCCCCC(=O)O | C18H34O2
